2109-01-09 07:50:00 Physician Resident Progress Note
Chief Complaint: s/p ERCP, resp failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2109-1-8**] 06:02 PM
 PAN CULTURE - At [**2109-1-8**] 10:30 PM
 FEVER - 102.1
F - [**2109-1-8**] 10:00 PM- blood and urine cultures
   ordered
   -agitated overnight and put on incr fent/versed
   Patient unable to provide history: Sedated
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-1-8**] 11:00 PM
   Metronidazole - [**2109-1-9**] 03:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-1-9**] 04:15 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2109-1-9**] 03:45 AM
   Midazolam (Versed) - [**2109-1-9**] 04:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: sedated
   Flowsheet Data as of  [**2109-1-9**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.4
C (99.4
   HR: 104 (93 - 121) bpm
   BP: 104/47(60) {94/47(60) - 114/67(77)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  3,630 mL
                                                                  1,983 mL
   PO:
             TF:
   IVF:
                                                                  3,630 mL
                                                                  1,983 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                  1,130 mL
   Urine:
                                                                    280 mL
                                                                    335 mL
   NG:
   625 mL
   Stool:
   Drains:
   170 mL
   Balance:
                                                                  2,650 mL
                                                                    853 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 506 (506 - 744) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 73
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.47/37/74/27/3
   Ve: 8.5 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   230 K/uL
   11.1 g/dL
   83 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   6 mg/dL
   100 mEq/L
   138 mEq/L
   33.0 %
   17.3 K/uL
        [image002.jpg]
                             [**2109-1-8**]  06:05 PM
                             [**2109-1-8**]  11:11 PM
                             [**2109-1-9**]  03:24 AM
   WBC
   19.7
   17.3
   Hct
   32.5
   33.0
   Plt
   218
   230
   Cr
   0.7
   0.7
   TCO2
   28
   Glucose
   109
   83
   Other labs: PT / PTT / INR:13.6/27.1/1.2, ALT / AST:16/20, Alk Phos / T
   Bili:77/0.6, Amylase / Lipase:94/46, Differential-Neuts:93.4 %,
   Lymph:2.9 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.4 mmol/L, LDH:332
   IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 CHOLECYSTITIS, CALCULOUS
   Assesment: This is a 53 year-old male with a history of depression who
   is transferred to the [**Hospital Unit Name 4**] s/p aspiration after being intubated for an
   ERCP for bile duct leak.
   Plan:
   # Hypoxic resp failure: Intubated for ERCP [**1-8**] after becoming
   significantly hypoxic.  Had an aspiration event, and anesthesia
   bronchoscopy showed large amount of bilious fluid in right middle
   lobe.  Patient was maintained on the ventilator on AC overnight with
   good O2 saturations. This am, gas on PS [**9-5**] was 7.43/46/124.
   - trial to wean PS today
   - wean fent/versed sedation as tol
   - cont vanco/ zosyn/flagyl for now to cover GI and aspiration
   - check sputum culture once has sputum
   - repeat CXR in AM
   - frequent suctioning
   # Gallstone pancreatitis ? cholecystitis s/p lap chole and ERCP for
   bile duct leak.  currently JP drain putting out bilious fluid; good
   amount of bilious fluid from OGT
   - f/u ERCP recs
   - NPO for now; can consider clears in AM if extubated
   - cont flagyl/zosyn. can consider stopping flagyl since zosyn covers
   anaerobes as well but will discuss with surgeon
   - monitor fever curve and leukocytosis
   - check blood cultures; check LFTs; check amylase and lipase
   -consult surgery today. Perhaps Muller
s team to make them aware.
   # Fever- fever overnight ?etiology- aspiration PNA vs intraabd process-
   bile leak, s/p cholecystitis. Urine abd blood cx pending
   -sputum cx as able
   -f/u cultures
   -cont vanc/zosyn/ flagyl for now
   # FEN:  NPO for now- NGT to suction
   # Access: 2 PIV  - will try to place A line today
   # PPx:  pneumoboots, H2 blocker
   # Code: presumed FULL
   # Dispo:  ICU for now; will call Dr. [**Last Name (STitle) 4567**] in AM for update- if
   extubated, may consider transfer back to OSH
   # Comm:  unknown for now- social work consulted to help find family
   Dr. [**First Name8 (NamePattern2) 1788**] [**Last Name (NamePattern1) 4567**] did lap chole at OSH. Wants to be updated in am [**Telephone/Fax (1) 4568**].
   ICU Care
   Nutrition: NPO with NGT to suction for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2109-1-8**] 06:06 PM
   20 Gauge - [**2109-1-9**] 05:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Addendum- to address gallstone pancreatitis, cx will be sent from JP
   drain and KUB will be ordered as well.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2113**] [**Last Name (NamePattern1) 1277**], MD
   on:[**2109-1-9**] 10:37 ------

2109-01-10 07:29:00 Physician Resident Progress Note
Chief Complaint: 53 year-old male with a history of depression who is
   transferred to the [**Hospital Unit Name 4**] s/p aspiration after being intubated for an
   ERCP for bile duct leak.
   24 Hour Events:
 ARTERIAL LINE - START [**2109-1-9**] 02:00 PM
 EKG - At [**2109-1-9**] 09:00 PM
 MULTI LUMEN - START [**2109-1-9**] 10:43 PM
 FEVER - 102.1
F - [**2109-1-9**] 08:00 PM
   -A line placed
   -Became febrile, tachy, and hypotensive to SBP ~80 and MAPs of low
   50s.  Bolused with three liters and RIJ placed.  BP improved to 90s and
   CVP 12.  Concerning for sepsis vs bleeding based on abdominal US which
   showed likely hematoma in [**Location (un) 4616**] pouch.
   -Surgery and ERCP notified of clinical deterioration.  Underwent
   emergent abdominal CT that showed significant pancreatitis but no
   necrosis or abdominal bleeding.  Surgery felt he should be medically,
   conservatively managed.
   -Transfused two units for Hct 24 <--33
   -CT also involved chest -> bibasilar consolidation versus atelectasis,
   pleural effusions
   -Went from PS of [**4-2**] to [**4-5**]
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-1-9**] 08:45 PM
   Metronidazole - [**2109-1-10**] 03:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-1-10**] 04:27 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2109-1-9**] 10:10 AM
   Heparin Sodium (Prophylaxis) - [**2109-1-9**] 04:09 PM
   Famotidine (Pepcid) - [**2109-1-10**] 07:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-10**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.4
C (99.3
   HR: 99 (91 - 121) bpm
   BP: 114/55(72) {86/40(54) - 145/74(93)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 13 (11 - 14)mmHg
   Total In:
                                                                  7,434 mL
                                                                    904 mL
   PO:
   TF:
   IVF:
                                                                  7,223 mL
                                                                    499 mL
   Blood products:
                                                                    141 mL
                                                                    405 mL
   Total out:
                                                                  3,200 mL
                                                                  1,270 mL
   Urine:
                                                                  1,785 mL
                                                                    680 mL
   NG:
                                                                  1,025 mL
                                                                    300 mL
   Stool:
   Drains:
                                                                    390 mL
                                                                    290 mL
   Balance:
                                                                  4,234 mL
                                                                   -366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 295 (295 - 508) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 105
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.40/48/108/28/3
   Ve: 9.8 L/min
   PaO2 / FiO2: 216
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   223 K/uL
   10.8 g/dL
   88 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   8 mg/dL
   105 mEq/L
   141 mEq/L
   31.0 %
   16.1 K/uL
        [image002.jpg]
                             [**2109-1-8**]  06:05 PM
                             [**2109-1-8**]  11:11 PM
                             [**2109-1-9**]  03:24 AM
                             [**2109-1-9**]  08:09 AM
                             [**2109-1-9**]  03:42 PM
                             [**2109-1-9**]  06:37 PM
                             [**2109-1-9**]  09:55 PM
                             [**2109-1-9**]  11:33 PM
                             [**2109-1-10**]  04:31 AM
                             [**2109-1-10**]  05:00 AM
   WBC
   19.7
   17.3
   16.1
   Hct
   32.5
   33.0
   27.5
   24.4
   31.0
   Plt
   [**Telephone/Fax (3) 4617**]
   Cr
   0.7
   0.7
   0.7
   0.6
   TCO2
   28
   32
   31
   31
   31
   Glucose
   109
   83
   78
   88
   Other labs: PT / PTT / INR:14.2/25.6/1.2, ALT / AST:19/39, Alk Phos / T
   Bili:70/2.7, Amylase / Lipase:104/31, Differential-Neuts:93.4 %,
   Lymph:2.9 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.3 mmol/L, LDH:247
   IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   53 year-old male with a history of depression who is transferred to the
   [**Hospital Unit Name 4**] s/p aspiration after being intubated for an ERCP for bile duct
   leak.
   # Shock:  Patient was hypotensive overnight on [**2109-1-9**] with
   contributing eti
   # Hypoxic resp failure: Intubated for ERCP [**1-8**] after becoming
   significantly hypoxic.  Had an aspiration event, and anesthesia
   bronchoscopy showed large amount of bilious fluid in right middle
   lobe.  Patient was maintained on the ventilator on AC overnight with
   good O2 saturations. This am, gas on PS [**9-5**] was 7.43/46/124.
   - trial to wean PS today
   - wean fent/versed sedation as tol
   - cont vanco/ zosyn/flagyl for now to cover GI and aspiration
   - check sputum culture once has sputum
   - repeat CXR in AM
   - frequent suctioning
   # Gallstone pancreatitis ? cholecystitis s/p lap chole and ERCP for
   bile duct leak.  currently JP drain putting out bilious fluid; good
   amount of bilious fluid from OGT
   - f/u ERCP recs
   - NPO for now; can consider clears in AM if extubated
   - cont flagyl/zosyn. can consider stopping flagyl since zosyn covers
   anaerobes as well but will discuss with surgeon
   - monitor fever curve and leukocytosis
   - check blood cultures; check LFTs; check amylase and lipase
   -consult surgery today. Perhaps Muller
s team to make them aware.
   # Fever- fever overnight ?etiology- aspiration PNA vs intraabd process-
   bile leak, s/p cholecystitis. Urine abd blood cx pending
   -sputum cx as able
   -f/u cultures
   -cont vanc/zosyn/ flagyl for now
   # FEN:  NPO for now- NGT to suction
   # Access: 2 PIV  - will try to place A line today
   # PPx:  pneumoboots, H2 blocker
   # Code: presumed FULL
   # Dispo:  ICU for now; will call Dr. [**Last Name (STitle) 4567**] in AM for update- if
   extubated, may consider transfer back to OSH
   # Comm:  unknown for now- social work consulted to help find family
   Dr. [**First Name8 (NamePattern2) 1788**] [**Last Name (NamePattern1) 4567**] did lap chole at OSH. Wants to be updated in am [**Telephone/Fax (1) 4568**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2109-1-8**] 06:06 PM
   20 Gauge - [**2109-1-9**] 05:15 AM
   Arterial Line - [**2109-1-9**] 02:00 PM
   Multi Lumen - [**2109-1-9**] 10:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-01-11 07:52:00 Physician Resident Progress Note
Chief Complaint: Cholangitis
   24 Hour Events:
   -Got 8L of fluid for low CVP's and hypotension
   -Got hypotensive again in the evening and got 2L of LR
   -Otherwise quiet day
   -Pan cultured for low grade fevers early in the AM on [**1-11**]
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-1-10**] 07:30 PM
   Metronidazole - [**2109-1-11**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-1-11**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-11**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.6
   HR: 109 (89 - 118) bpm
   BP: 104/57(73) {91/49(63) - 154/71(96)} mmHg
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 11 (8 - 14)mmHg
   Mixed Venous O2% Sat: 85 - 85
   Total In:
                                                                  7,268 mL
                                                                  4,114 mL
   PO:
   TF:
   IVF:
                                                                  6,317 mL
                                                                  3,467 mL
   Blood products:
                                                                    405 mL
   Total out:
                                                                  2,898 mL
                                                                  1,240 mL
   Urine:
                                                                  1,633 mL
                                                                    590 mL
   NG:
                                                                    750 mL
                                                                    320 mL
   Stool:
   Drains:
                                                                    515 mL
                                                                    330 mL
   Balance:
                                                                  4,370 mL
                                                                  2,874 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 319 (319 - 319) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/44/110/30/3
   Ve: 11.6 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, hypoactive BS
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   210 K/uL
   10.3 g/dL
   104 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.2 mEq/L
   9 mg/dL
   106 mEq/L
   142 mEq/L
   30.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2109-1-9**]  06:37 PM
                             [**2109-1-9**]  09:55 PM
                             [**2109-1-9**]  11:33 PM
                             [**2109-1-10**]  04:31 AM
                             [**2109-1-10**]  05:00 AM
                             [**2109-1-10**]  10:33 AM
                             [**2109-1-10**]  12:39 PM
                             [**2109-1-10**]  05:51 PM
                             [**2109-1-10**]  06:16 PM
                             [**2109-1-11**]  04:20 AM
   WBC
   16.1
   11.2
   Hct
   27.5
   24.4
   31.0
   31.9
   29.6
   30.5
   Plt
   223
   210
   Cr
   0.7
   0.6
   0.5
   TCO2
   31
   31
   32
   30
   Glucose
   78
   88
   104
   Other labs: PT / PTT / INR:14.8/29.5/1.3, ALT / AST:16/34, Alk Phos / T
   Bili:74/2.0, Amylase / Lipase:87/29, Differential-Neuts:93.4 %,
   Lymph:2.9 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.3 mmol/L, LDH:204
   IU/L, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Imaging: CT Chest and Abdomen:
   IMPRESSION:
   1. Necrotizing pancreatitis characterized by lack of enhancement of the
   pancreatic head, neck and proximal body with marked peripancreatic
   inflammatory stranding.
   2. No evidence of hematoma in the abdomen or pelvis. The previously
   described abnormality in Morison's pouch likely represented the
   surgical drain in this region.
   3. Multifocal nodular opacities throughout the bilateral lung fields,
   near- complete consolidation of the bilateral lower lobes and small
   bilateral
   pleural effusions. These findings are suspicious for an infectious
   etiology
   and given the bibasilar consolidation, aspiration pneumonia is
   suspected.
   4. Colonic diverticulosis without evidence of diverticulitis.
   Assessment and Plan
   53 year-old male with a history of depression who is transferred to the
   [**Hospital Unit Name 4**] s/p aspiration after being intubated for an ERCP for bile duct
   leak.
   # Shock:  Patient continues to have low BP
s in setting of continued
   necrotic pancreatitis.  In general patient
s CVP and BP correspondingly
   rise to fluid boluses to with CVP of 15 we are approaching limits of
   continued bolusing.  Will continue to attempt to bolus for hypertension
   as long as respiratory status remains stable and CVP not much greater
   than 15.  Patient is third-spacing huge volumes due to SIRS.
   -IVF resuscitation with LR PRN
   - management of pancreatitis, ?sepsis as described below
   - CVP goal of 12
   - CVO2 goal of >70%
   - Will transfuse for Hct < 26
   - continue vanc/zosyn/flagyl
   - consider coverage of VRE or fungus if patient decompensates (fever
   curve currently trending down and perhaps slightly better)
   -[**Hospital1 **] Hct given concern in past for hemorrhagic pancreatitis.
   # Gallstone pancreatitis: ?cholecystitis s/p lap chole and ERCP for
   bile duct leak with JP drain in place and draining bilious fluid.
   Partially necrotic pancreatitis visualized on abdominal CT on [**2109-1-9**].
   - aggressive IVF resuscitation with LR
   - continue vanc/zosyn/flagyl though likely will not affect course of
   pancreatitis
   - f/u surgery reccs; anticipate conservative management for now
   - f/u ERCP reccs
   - continue to trend amylase/lipase
   # Hypoxic resp failure/Aspiration pna:  Intubated for ERCP [**1-8**] after
   becoming significantly hypoxic.  Had an aspiration event, and
   anesthesia bronchoscopy showed large amount of bilious fluid in right
   middle lobe.  Will treat for presumed ARDS though patient does not
   strictly meet criteria and in fact parameters are improving.
   - low tidal volumes, higher respiratory rate to meet minute ventilation
   needs, wean peep as tolerated
   - check ABG
   - continue AC
   - cont vanco/ zosyn/flagyl for now to cover GI and aspiration
   - f/u sputum culture
   # FEN:  TPN today, as ileus resolves would proceed to post-pyloric
   enteral feedings
   -attempt Dobhoff placement vs d/w IR
   # Comm:  Social work has identified a few family members.  We are also
   in communication with his surgeon, Dr. [**Last Name (STitle) 4567**], who performed lap chole
   at OSH ([**Telephone/Fax (1) 4624**] (c) )
   # PPx: Famotidine, Pneumoboots
   #Code: Presumed full
   #Dispo: ICU
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2109-1-10**] 05:27 PM 83.[**Telephone/Fax (5) 2407**]
   mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-1-8**] 06:05 PM
   Arterial Line - [**2109-1-9**] 02:00 PM
   Multi Lumen - [**2109-1-9**] 10:43 PM
   18 Gauge - [**2109-1-11**] 02:09 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-01-12 07:28:00 Physician Resident Progress Note
Chief Complaint: 53M depression, recent GS pancreatitis ([**12-30**]) with neg
   ERCP ([**12-31**] at [**Hospital1 5**]) s/p lap chole ([**1-5**]) c/b bile leak at OSH, and s/p
   ERCP for stent for leak c/b aspiration and hypoxemia, now with
   pancreatitis and respiratory failure.
   24 Hour Events:
 BLOOD CULTURED - At [**2109-1-11**] 08:08 AM
 URINE CULTURE - At [**2109-1-11**] 08:09 AM
   -pulled back CVL
   - placed post pyloric NGT. Expect nutrition recs for TF tomorrow
   -Bolused with LR throughout day total of 2.5L by 10pm for low BP and
   CVP
   - ERCP team updated. No new recs
   - [**Hospital1 **] Hct stable
   -needs vanco approval in am
   - TPN reordered.
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-1-11**] 08:50 PM
   Metronidazole - [**2109-1-12**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-1-12**] 04:37 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-1-11**] 09:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-12**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.8
   HR: 93 (77 - 110) bpm
   BP: 140/62(84) {92/49(63) - 146/76(97)} mmHg
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 9 (9 - 12)mmHg
   Total In:
                                                                  9,972 mL
                                                                    679 mL
   PO:
   TF:
   IVF:
                                                                  8,292 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                  1,080 mL
   Urine:
                                                                  1,790 mL
                                                                    710 mL
   NG:
                                                                    320 mL
   Stool:
   Drains:
                                                                  1,045 mL
                                                                    370 mL
   Balance:
                                                                  6,817 mL
                                                                   -401 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/43/122/31/4
   Ve: 8.4 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   9.7 g/dL
   126 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.5 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   29.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2109-1-10**]  10:33 AM
                             [**2109-1-10**]  12:39 PM
                             [**2109-1-10**]  05:51 PM
                             [**2109-1-10**]  06:16 PM
                             [**2109-1-11**]  04:20 AM
                             [**2109-1-11**]  09:34 AM
                             [**2109-1-11**]  05:01 PM
                             [**2109-1-11**]  05:08 PM
                             [**2109-1-11**]  06:29 PM
                             [**2109-1-12**]  03:22 AM
   WBC
   11.2
   13.0
   Hct
   31.9
   29.6
   30.5
   30.8
   29.3
   Plt
   210
   196
   Cr
   0.5
   0.5
   TCO2
   32
   30
   27
   30
   29
   Glucose
   104
   126
   Other labs: PT / PTT / INR:15.3/33.2/1.3, ALT / AST:16/34, Alk Phos / T
   Bili:74/1.6, Amylase / Lipase:87/29, Differential-Neuts:93.4 %,
   Lymph:2.9 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.3 mmol/L, LDH:204
   IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   53M depression, recent GS pancreatitis ([**12-30**]) with neg ERCP ([**12-31**] at
   [**Hospital1 5**]) s/p lap chole ([**1-5**]) c/b bile leak at OSH, and s/p ERCP for stent
   for leak c/b aspiration and hypoxemia, now with pancreatitis and
   respiratory failure.
   53 year-old male with a history of depression who is transferred to the
   [**Hospital Unit Name 4**] s/p aspiration after being intubated for an ERCP for bile duct
   leak.
   # Shock:  Patient continues to have low BP
s in setting of continued
   necrotic pancreatitis.  In general patient
s CVP and BP correspondingly
   rise to fluid boluses to with CVP of 15 we are approaching limits of
   continued bolusing.  Will continue to attempt to bolus for hypertension
   as long as respiratory status remains stable and CVP not much greater
   than 15.  Patient is third-spacing huge volumes due to SIRS.
   -IVF resuscitation with LR PRN
   - management of pancreatitis, ?sepsis as described below
   - CVP goal of 12
   - CVO2 goal of >70%
   - Will transfuse for Hct < 26
   - continue vanc/zosyn/flagyl
   - consider coverage of VRE or fungus if patient decompensates (fever
   curve currently trending down and perhaps slightly better)
   -[**Hospital1 **] Hct given concern in past for hemorrhagic pancreatitis.
   # Gallstone pancreatitis: ?cholecystitis s/p lap chole and ERCP for
   bile duct leak with JP drain in place and draining bilious fluid.
   Partially necrotic pancreatitis visualized on abdominal CT on [**2109-1-9**].
   - aggressive IVF resuscitation with LR
   - continue vanc/zosyn/flagyl though likely will not affect course of
   pancreatitis
   - f/u surgery reccs; anticipate conservative management for now
   - f/u ERCP reccs
   - continue to trend amylase/lipase
   # Hypoxic resp failure/Aspiration pna:  Intubated for ERCP [**1-8**] after
   becoming significantly hypoxic.  Had an aspiration event, and
   anesthesia bronchoscopy showed large amount of bilious fluid in right
   middle lobe.  Will treat for presumed ARDS though patient does not
   strictly meet criteria and in fact parameters are improving.
   - low tidal volumes, higher respiratory rate to meet minute ventilation
   needs, wean peep as tolerated
   - check ABG
   - continue AC
   - cont vanco/ zosyn/flagyl for now to cover GI and aspiration
   - f/u sputum culture
   # FEN:  TPN today, as ileus resolves would proceed to post-pyloric
   enteral feedings
   -attempt Dobhoff placement vs d/w IR
   # Comm:  Social work has identified a few family members.  We are also
   in communication with his surgeon, Dr. [**Last Name (STitle) 4567**], who performed lap chole
   at OSH ([**Telephone/Fax (1) 4624**] (c) )
   #Code: Presumed full
   ICU Care
   Nutrition:
   TPN without Lipids - [**2109-1-11**] 06:35 PM 41.[**Telephone/Fax (5) 1156**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-1-9**] 02:00 PM
   Multi Lumen - [**2109-1-9**] 10:43 PM
   18 Gauge - [**2109-1-11**] 02:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-01-13 07:45:00 Physician Resident Progress Note
Chief Complaint: Cholangitis, respiratory failure (aspiration)
   24 Hour Events:
 BLOOD CULTURED - At [**2109-1-13**] 06:08 AM
    blood c/s 2 of 2 sent
 FEVER - 101.8
F - [**2109-1-13**] 06:00 AM
   -Got 1L LR in evening for tachy to 110 concerning for evolution to
   hypotension.  BP stable though.
   -Grew E. coli in sputum from [**1-10**] (sensitive to zosyn)
   -[**Doctor First Name 91**] reccs -> start TFs so we started them.
   -spiked temp on a.m. of [**1-13**]
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-1-12**] 08:00 PM
   Metronidazole - [**2109-1-13**] 02:21 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-1-13**] 04:36 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-1-12**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2109-1-12**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-13**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 107 (93 - 114) bpm
   BP: 107/52(69) {93/45(60) - 151/69(94)} mmHg
   RR: 27 (0 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 9 (4 - 295)mmHg
   Total In:
                                                                  3,118 mL
                                                                  1,733 mL
   PO:
   TF:
                                                                     73 mL
   IVF:
                                                                  2,107 mL
                                                                  1,338 mL
   Blood products:
   Total out:
                                                                  3,635 mL
                                                                    920 mL
   Urine:
                                                                  2,075 mL
                                                                    450 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
                                                                  1,260 mL
                                                                    470 mL
   Balance:
                                                                   -517 mL
                                                                    813 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 94%
   ABG: 7.48/38/132/28/5
   Ve: 10.7 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   191 K/uL
   9.7 g/dL
   119 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.6 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   28.5 %
   11.8 K/uL
        [image002.jpg]
                             [**2109-1-10**]  05:51 PM
                             [**2109-1-10**]  06:16 PM
                             [**2109-1-11**]  04:20 AM
                             [**2109-1-11**]  09:34 AM
                             [**2109-1-11**]  05:01 PM
                             [**2109-1-11**]  05:08 PM
                             [**2109-1-11**]  06:29 PM
                             [**2109-1-12**]  03:22 AM
                             [**2109-1-13**]  05:07 AM
                             [**2109-1-13**]  05:28 AM
   WBC
   11.2
   13.0
   11.8
   Hct
   29.6
   30.5
   30.8
   29.3
   28.5
   Plt
   [**Telephone/Fax (3) 4668**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   30
   27
   30
   29
   29
   Glucose
   104
   126
   119
   Other labs: PT / PTT / INR:15.3/33.2/1.3, ALT / AST:20/64, Alk Phos / T
   Bili:101/2.0, Amylase / Lipase:111/33, Differential-Neuts:93.4 %,
   Lymph:2.9 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.3 mmol/L, Albumin:1.6
   g/dL, LDH:235 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53 year-old male with a history of depression transferred to the [**Hospital Unit Name 4**]
   s/p aspiration after being intubated for an ERCP for bile duct leak.
    # Shock:  Likely secondary to combination of hypovolemia from
   third-spacing in setting of pancreatitis.  Relative hypovolemia
   manifested first by tachycardia and then by hypotension.
   - IVF resuscitation with LR PRN, currently good BP
   - management of pancreatitis, ?sepsis as described below
   - CVP goal of 12, CVO2 goal of >70%
   - Will transfuse for Hct < 26
   - continue vanc/zosyn/flagyl (day 1 = [**1-8**] for all antibiotics)
   - consider coverage of VRE or fungus if patient decompensates (fever
   curve currently trending down and perhaps slightly better)
   # Pancreatitis:  Patient had gall stone pancreatitis ([**12-30**]) with neg
   ERCP ([**12-31**] at [**Hospital1 5**]) s/p lap chole ([**1-5**]) c/b bile leak at OSH, and s/p
   ERCP for stent for leak c/b aspiration.  JP drain in place and draining
   bilious fluid.  Partially necrotic pancreatitis visualized on abdominal
   CT on [**2109-1-9**].
   - aggressive IVF resuscitation with LR if needed for hypotension but
   will try to minimize for overall respiratory status
   - continue vanc/zosyn/flagyl though likely will not affect course of
   pancreatitis
   - f/u surgery reccs; anticipate conservative management for now
   - f/u ERCP reccs
   - continue to trend amylase/lipase
   # Hypoxic resp failure/Aspiration pna:  Intubated for ERCP [**1-8**] after
   becoming significantly hypoxic.  Had an aspiration event and anesthesia
   bronchoscopy showed large amount of bilious fluid in right middle lobe;
   growing E. coli in sputum as of [**2109-1-12**].  Will treat for presumed ARDS
   though patient does not strictly meet criteria.
   - Continue ARDS protocol for protective ventilation for [**Doctor Last Name 76**] (low tidal
   volumes, higher respiratory rate to meet minute ventilation needs, wean
   peep as tolerated)
   - cont vanco/ zosyn/flagyl for now to cover GI and aspiration
   -attempt to keep euvolemic today in order to not worsen pulmonary
   edema.
   #Anemia: Basically stable but given concern for hemorrhagic
   pancreatitis
   # FEN:  Tube feeds
   # Comm:  Social work has identified a few family members.  We are also
   in communication with his surgeon, Dr. [**Last Name (STitle) 4567**], who performed lap chole
   at OSH ([**Telephone/Fax (1) 4624**] (c) )
   # PPx: SC heparin, famotidine
   #Code: Full
   ICU Care
   Nutrition:
   TPN without Lipids - [**2109-1-12**] 06:19 PM 41.[**Telephone/Fax (5) 1156**] mL/hour
   Replete with Fiber (Full) - [**2109-1-13**] 12:21 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-1-9**] 02:00 PM
   Multi Lumen - [**2109-1-9**] 10:43 PM
   18 Gauge - [**2109-1-11**] 02:09 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-01-15 08:00:00 Physician Resident Progress Note
Chief Complaint: Cholangitis, respiratory failure
   24 Hour Events:
 EKG - At [**2109-1-14**] 10:00 AM
 FEVER - 101.6
F - [**2109-1-14**] 11:00 AM
   -Got 500 ml LR for MAP's in 60's and CVP around [**3-3**] in early am
   - started lasix gtt and increased to 2mg/hr by evening to be negative
   for the day
   - started Thorazine 25 QID IV for hiccups with good effect
   - TPN ordered- OGT putting out lots of fluid so still to suction and tf
   D/C'D
   - CT torso/ head- head without acute issued. Rest still pending
   - sputum E coli resistant to zosyn so switch to cipro after curbsiding
   ID
   Patient unable to provide history: Sedated, Encephalopathy,
   Unresponsive
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-1-14**] 12:00 PM
   Ciprofloxacin - [**2109-1-14**] 07:30 PM
   Metronidazole - [**2109-1-15**] 01:52 AM
   Vancomycin - [**2109-1-15**] 07:32 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2109-1-14**] 11:14 PM
   Fentanyl - [**2109-1-14**] 11:32 PM
   Famotidine (Pepcid) - [**2109-1-15**] 07:17 AM
   Heparin Sodium (Prophylaxis) - [**2109-1-15**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-15**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.8
   HR: 104 (94 - 116) bpm
   BP: 97/50(63) {97/50(63) - 144/73(88)} mmHg
   RR: 28 (0 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 7 (7 - 13)mmHg
   Total In:
                                                                  2,755 mL
                                                                    903 mL
   PO:
   TF:
                                                                    326 mL
   IVF:
                                                                  2,109 mL
                                                                    536 mL
   Blood products:
   Total out:
                                                                  3,525 mL
                                                                    765 mL
   Urine:
                                                                  1,665 mL
                                                                    385 mL
   NG:
                                                                    750 mL
   Stool:
   Drains:
                                                                  1,110 mL
                                                                    380 mL
   Balance:
                                                                   -770 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.50/41/85.[**Numeric Identifier 299**]/28/7
   Ve: 12.5 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   195 K/uL
   9.2 g/dL
   137 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   20 mg/dL
   105 mEq/L
   140 mEq/L
   27.4 %
   11.1 K/uL
        [image002.jpg]
                             [**2109-1-13**]  05:28 AM
                             [**2109-1-13**]  04:15 PM
                             [**2109-1-13**]  04:28 PM
                             [**2109-1-14**]  04:50 AM
                             [**2109-1-14**]  05:22 AM
                             [**2109-1-14**]  07:16 AM
                             [**2109-1-14**]  11:40 PM
                             [**2109-1-15**]  12:34 AM
                             [**2109-1-15**]  04:26 AM
                             [**2109-1-15**]  04:47 AM
   WBC
   12.8
   11.1
   Hct
   28.1
   28.9
   27.4
   Plt
   217
   195
   Cr
   0.6
   TCO2
   29
   31
   31
   31
   32
   31
   33
   Glucose
   102
   137
   Other labs: PT / PTT / INR:15.7/29.6/1.4, ALT / AST:21/33, Alk Phos / T
   Bili:122/1.3, Amylase / Lipase:104/31, Differential-Neuts:87.2 %,
   Lymph:8.4 %, Mono:2.5 %, Eos:1.5 %, Lactic Acid:1.3 mmol/L, Albumin:1.6
   g/dL, LDH:235 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Imaging: CT Chest and Abdomen
   -----------------------------
   IMPRESSION:
   1. Interval worsening of diffuse patchy alveolar opacities throughout
   both
   lungs and persistent bibasilar consolidations concerning for pneumonia.
   Aspiration pneumonia remains a diagnostic consideration.
   2. CT evidence of necrotizing pancreatitis as previously described.
   Although
   the study was not specifically tailored to assess the enhancement of
   the
   pancreas, decreased areas of enhancement in the head and body are again
   evident. Enlarged mesenteric lymph nodes likely reactive and related to
   ongoing inflammatory and/or infectious process. Markedly attenuated
   SMV.
   3. Prominence of the left intrahepatic biliary ducts in the setting of
   a
   biliary stent, could represent obstruction, but unchanged.
   4. Anasarca and increase in bilateral pleural effusions and small
   amount of
   intra- abdominal ascites.
   CT Head:
   IMPRESSION: No evidence of acute intracranial abnormalities.
   Microbiology: Sputum Gram Stain [**2109-1-12**]
   ------------------------------------
   GRAM STAIN (Final [**2109-1-12**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         OROPHARYNGEAL FLORA ABSENT.
         ESCHERICHIA COLI.    SPARSE GROWTH.
            sensitivity testing performed by Microscan.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ESCHERICHIA COLI
                                |
   AMPICILLIN------------         =>16 R
   CIPROFLOXACIN---------   <=0.5 S
   GENTAMICIN------------      <=1 S
   PIPERACILLIN----------     =>64 R
   PIPERACILLIN/TAZO----  =>64 R
   TOBRAMYCIN------------          2 S
   TRIMETHOPRIM/SULFA----      R
   Assessment and Plan
   53 year-old male with a history of depression transferred to the [**Hospital Unit Name 4**]
   s/p aspiration prior to being intubated for an ERCP for bile duct leak.
    # Hypoxic resp failure/Aspiration Pneumonia:  The patient was
   intubated for ERCP on [**1-8**] after becoming significantly hypoxic after
   his ERCP.    He had an aspiration event and anesthesia bronchoscopy
   showing a large amount of bilious fluid in right middle lobe.  Has been
   successfully advanced to pressure support and ABG
s stable.  We will
   continue on pressure support and continue to monitor ABG
s to follow.
   Regarding his E coli in the sputum, this continues to be unlikely to be
   a pneumonia but given that he is still very ill and ventilated we will
   treat this as real for the moment.   We will switch cipro to meropenem,
   which will cover E. coli as well as GI flora and stop metronidazole.
   - Continue ARDS protocol for protective ventilation for [**Doctor Last Name 76**] (low tidal
   volumes, higher respiratory rate to meet minute ventilation needs, wean
   peep as tolerated)
   - cont vanco/meropenem for now to cover GI and aspiration. ID aware and
   ok with double covering for anaerobes although surgery not sure about
   this.
   -given +18L in LOS and effusions and pulm edema on CXR, will need
   diuresis prior to weaning. Will try lasix gtt today for goal of one
   liter negative as pressures tolerate.
   # Shock:  Likely secondary to combination of hypovolemia from
   third-spacing in setting of pancreatitis.  Relative hypovolemia
   manifested first by tachycardia and then by hypotension.
   - IVF resuscitation with LR PRN, currently good BP
   - management of pancreatitis, ?sepsis as described below
   - CVP goal of 12, CVO2 goal of >70%
   - Will transfuse for Hct < 26
   - continue vanc/meropenem (day 1 = [**1-8**] for all antibiotics)
   - consider coverage of VRE or fungus if patient decompensates (fever
   curve currently trending down and perhaps slightly better)
   # Pancreatitis:  Patient had gall stone pancreatitis ([**12-30**]) with neg
   ERCP ([**12-31**] at [**Hospital1 5**]) s/p lap chole ([**1-5**]) c/b bile leak at OSH, and s/p
   ERCP for stent for leak c/b aspiration.  JP drain in place and draining
   bilious fluid.  Partially necrotic pancreatitis visualized on abdominal
   CT on [**2109-1-9**] and unchanged on scan on [**2109-1-14**].
   - aggressive IVF resuscitation with LR if needed for hypotension but
   will try to minimize for overall respiratory status
   - continue vanc/meropenem though likely will not affect course of
   pancreatitis
   - surgery repeats plan for conservative management for now
   - f/u ERCP recs
   #Anemia: Basically stable despite  concern for hemorrhagic pancreatitis
   # Comm:  Social work has identified a few family members.  We are also
   in communication with his surgeon, Dr. [**Last Name (STitle) 4567**], who performed lap chole
   at OSH ([**Telephone/Fax (1) 4624**] (c) )
   #PPx: SC heparin, famotidine
   #FEN: TPN for moment (as have been sucking out tube feeds with OG)
   #Code: Presumed full
   #Dispo: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2109-1-14**] 06:26 PM 46.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-1-9**] 02:00 PM
   Multi Lumen - [**2109-1-9**] 10:43 PM
   18 Gauge - [**2109-1-11**] 02:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-01-16 07:29:00 Physician Resident Progress Note
Chief Complaint: Cholangitis, respiratory failure
   24 Hour Events:
   -Tmax of 100.8 at 00:00
   -d/c'd cipro/flagyl and started meropenem
   -Considered to have an inadequate response to furosemide so received
   norepineprhine briefly to increase pressure to point where could
   administer furosemide bolus
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-1-14**] 12:00 PM
   Ciprofloxacin - [**2109-1-15**] 08:00 AM
   Metronidazole - [**2109-1-15**] 10:09 AM
   Vancomycin - [**2109-1-15**] 08:15 PM
   Meropenem - [**2109-1-16**] 05:00 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-1-15**] 07:32 PM
   Heparin Sodium (Prophylaxis) - [**2109-1-15**] 10:00 PM
   Furosemide (Lasix) - [**2109-1-15**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-16**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.8
C (98.2
   HR: 93 (81 - 102) bpm
   BP: 107/56(72) {93/47(61) - 145/68(88)} mmHg
   RR: 0 (0 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 9 (9 - 10)mmHg
   Total In:
                                                                  2,823 mL
                                                                    722 mL
   PO:
   TF:
   IVF:
                                                                  1,546 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                  1,515 mL
   Urine:
                                                                  1,425 mL
                                                                    985 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
                                                                    790 mL
                                                                    530 mL
   Balance:
                                                                    258 mL
                                                                   -793 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 399 (399 - 673) mL
   PC : 0 cmH2O
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.47/40/115/28/5
   Ve: 11.2 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   , Crackles : few)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, 2+ bilateral upper extremity edema as
   well
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   213 K/uL
   9.2 g/dL
   143 mg/dL
   0.5 mg/dL
   28 mEq/L (30)
   4.0 mEq/L
   21 mg/dL
   106 mEq/L
   140 mEq/L
   28.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2109-1-15**]  12:34 AM
                             [**2109-1-15**]  04:26 AM
                             [**2109-1-15**]  04:47 AM
                             [**2109-1-15**]  08:31 AM
                             [**2109-1-15**]  04:58 PM
                             [**2109-1-15**]  05:00 PM
                             [**2109-1-15**]  06:35 PM
                             [**2109-1-16**]  03:20 AM
                             [**2109-1-16**]  03:39 AM
                             [**2109-1-16**]  05:16 AM
   WBC
   11.1
   9.5
   Hct
   27.4
   28.0
   Plt
   195
   213
   Cr
   0.6
   0.6
   0.5
   TCO2
   31
   33
   31
   32
   32
   31
   30
   Glucose
   137
   116
   143
   Other labs: PT / PTT / INR:15.4/28.6/1.4, ALT / AST:19/28, Alk Phos / T
   Bili:194(122)/0.9, Amylase / Lipase:43/27, Differential-Neuts:84.3 %,
   Lymph:9.6 %, Mono:2.8 %, Eos:3.1 %, Lactic Acid:1.6 mmol/L, Albumin:1.6
   g/dL, LDH:181 IU/L, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PANCREATITIS, ACUTE
 PNEUMONIA, ASPIRATION
 CHOLECYSTITIS, CALCULOUS
   53 year-old male with a history of depression transferred to the [**Hospital Unit Name 4**]
   s/p aspiration prior to being intubated for an ERCP for bile duct
   leak.
   # Hypoxic resp failure/Aspiration Pneumonia:  The patient was intubated
   for ERCP on [**1-8**] after becoming significantly hypoxic after his
   ERCP.    He had an aspiration event and anesthesia bronchoscopy showing
   a large amount of bilious fluid in right middle lobe.  Has been
   successfully advanced to pressure support and ABG
s stable.  We will
   continue on pressure support and continue to monitor ABG
s to follow.
   Regarding his E coli in the sputum, this continues to be unlikely to be
   a pneumonia but given that he is still very ill and ventilated we will
   treat this as real for the moment.   We will switch cipro to meropenem,
   which will cover E. coli as well as GI flora and stop
   metronidazole.
   - Continue ARDS protocol for protective ventilation for [**Doctor Last Name 76**] (low tidal
   volumes, higher respiratory rate to meet minute ventilation needs, wean
   peep as tolerated)
   - cont vanco/meropenem for now to cover GI and aspiration. ID aware and
   ok with double covering for anaerobes although surgery not sure about
   this.
   -given +18L in LOS and effusions and pulm edema on CXR, will need
   diuresis prior to weaning. Will try lasix gtt today for goal of one
   liter negative as pressures tolerate.
   # Shock:  Likely secondary to combination of hypovolemia from
   third-spacing in setting of pancreatitis.  Relative hypovolemia
   manifested first by tachycardia and then by hypotension.
   - IVF resuscitation with LR PRN, currently good BP
   - management of pancreatitis, ?sepsis as described below
   - CVP goal of 12, CVO2 goal of >70%
   - Will transfuse for Hct < 26
   - continue vanc/meropenem (day 1 = [**1-8**] for all antibiotics)
   - consider coverage of VRE or fungus if patient decompensates (fever
   curve currently trending down and perhaps slightly better)
    # Pancreatitis:  Patient had gall stone pancreatitis ([**12-30**]) with neg
   ERCP ([**12-31**] at [**Hospital1 5**]) s/p lap chole ([**1-5**]) c/b bile leak at OSH, and s/p
   ERCP for stent for leak c/b aspiration.  JP drain in place and draining
   bilious fluid.  Partially necrotic pancreatitis visualized on abdominal
   CT on [**2109-1-9**] and unchanged on scan on [**2109-1-14**].
   - aggressive IVF resuscitation with LR if needed for hypotension but
   will try to minimize for overall respiratory status
   - continue vanc/meropenem though likely will not affect course of
   pancreatitis
   - surgery repeats plan for conservative management for now
   - f/u ERCP recs
   #Anemia: Basically stable despite  concern for hemorrhagic pancreatitis
   # Comm:  Social work has identified a few family members.  We are also
   in communication with his surgeon, Dr. [**Last Name (STitle) 4567**], who performed lap chole
   at OSH ([**Telephone/Fax (1) 4624**] (c) )
    #PPx: SC heparin, famotidine
   #FEN: TPN for moment (as have been sucking out tube feeds with OG)
    #Code: Presumed full
   #Dispo: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2109-1-15**] 06:25 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-1-9**] 02:00 PM
   Multi Lumen - [**2109-1-9**] 10:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-01-17 08:03:00 Physician Resident Progress Note
Chief Complaint: pancreatitis s/p ERCP with aspiration, resp failure
   24 Hour Events:
   - per rads both OGT and feeding tube in stomach
   - Feeding tube advanced by IR and restarted
   - Great UOP to furosemide drip (>2.5 L negative in 24 hrs)
   - Got progressively more tachypneic O/N with coarse crackles; repeat
   CXR just showed pulmonary edema
   - SBT deferred d/t RISB of 108
   Patient unable to provide history: Unresponsive
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-1-14**] 12:00 PM
   Ciprofloxacin - [**2109-1-15**] 08:00 AM
   Metronidazole - [**2109-1-15**] 10:09 AM
   Vancomycin - [**2109-1-16**] 08:50 PM
   Meropenem - [**2109-1-17**] 04:35 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-1-16**] 09:23 PM
   Heparin Sodium (Prophylaxis) - [**2109-1-16**] 10:47 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none- pt not responsive
   Flowsheet Data as of  [**2109-1-17**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 99 (90 - 114) bpm
   BP: 115/58(77) {103/51(67) - 167/76(103)} mmHg
   RR: 26 (17 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  3,012 mL
                                                                    986 mL
   PO:
   TF:
                                                                    122 mL
                                                                    108 mL
   IVF:
                                                                  1,184 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                  5,975 mL
                                                                  2,290 mL
   Urine:
                                                                  4,565 mL
                                                                  1,320 mL
   NG:
                                                                    200 mL
                                                                    500 mL
   Stool:
   Drains:
                                                                  1,210 mL
                                                                    470 mL
   Balance:
                                                                 -2,963 mL
                                                                 -1,302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 464 (407 - 587) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.51/35/96.[**Numeric Identifier 7**]/28/4
   Ve: 13.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No acute distress, anasarcic
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: No spontaneous
   movement, Tone: Normal. Per nursing has opened eyes to command but not
   doing so this am
   Labs / Radiology
   271 K/uL
   9.9 g/dL
   146 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   18 mg/dL
   102 mEq/L
   136 mEq/L
   28.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2109-1-15**]  05:00 PM
                             [**2109-1-15**]  06:35 PM
                             [**2109-1-16**]  03:20 AM
                             [**2109-1-16**]  03:39 AM
                             [**2109-1-16**]  05:16 AM
                             [**2109-1-16**]  10:14 AM
                             [**2109-1-16**]  04:21 PM
                             [**2109-1-16**]  04:35 PM
                             [**2109-1-17**]  04:18 AM
                             [**2109-1-17**]  05:00 AM
   WBC
   9.5
   11.9
   Hct
   28.0
   27.2
   28.6
   Plt
   213
   271
   Cr
   0.5
   0.5
   0.5
   TCO2
   32
   32
   31
   30
   29
   30
   29
   Glucose
   143
   126
   146
   Other labs: PT / PTT / INR:15.3/28.4/1.4, ALT / AST:19/28, Alk Phos / T
   Bili:194/0.9, Amylase / Lipase:43/27, Differential-Neuts:84.3 %,
   Lymph:9.6 %, Mono:2.8 %, Eos:3.1 %, Lactic Acid:1.5 mmol/L, Albumin:1.6
   g/dL, LDH:181 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PANCREATITIS, ACUTE
 PNEUMONIA, ASPIRATION
 CHOLECYSTITIS, CALCULOUS
   53 year-old male with a history of depression transferred to the [**Hospital Unit Name 4**]
   s/p aspiration prior to being intubated for an ERCP for bile duct
   leak.
   # Hypoxic resp failure/Aspiration Pneumonia:  The patient was intubated
   after becoming significantly hypoxic after his ERCP.    He vomited,
   aspirated and had bilious fluid in the lung at the time of anesthesia
   bronchoscopy.  Has been successfully advanced to pressure support and
   ABG
s stable.  We will continue on pressure support and continue to
   monitor ABG
s to follow.  Sputum E. coli seemed unlikely to be a VAP
   organism initially but given defervescing on meropenem it is possible
   this is a VAP.
   - cont vanco/meropenem for now to cover GI and aspiration. ID aware and
   ok with double covering for anaerobes although surgery not sure about
   this.
   - Will try lasix gtt today for goal of one liter negative as pressures
   tolerate if continuing to not put out adequately to this would consider
   bolusing once again as pressures improved
   # Shock:  Likely secondary to combination of hypovolemia from
   third-spacing in setting of pancreatitis and now imporoved.  His
   relative hypovolemia has previously been manifested by tachycardia and
   then by hypotension.
   - IVF resuscitation with LR PRN, currently good BP
   - management of pancreatitis, ?sepsis as described below
   - CVP goal of 12, CVO2 goal of >70%
   - Will transfuse for Hct < 26
   - continue vanc/meropenem (day 1 = [**1-8**] for vanc and [**1-15**] for
   meropenem)
   - consider coverage of VRE or fungus if patient decompensates (fever
   curve currently trending down and perhaps slightly better)
    # Pancreatitis:  Patient had gall stone pancreatitis ([**12-30**]) with neg
   ERCP ([**12-31**] at [**Hospital1 5**]) s/p lap chole ([**1-5**]) c/b bile leak at OSH, and s/p
   ERCP for stent for leak c/b aspiration.  JP drain in place and draining
   bilious fluid.  Partially necrotic pancreatitis visualized on abdominal
   CT on [**2109-1-9**] and unchanged on scan on [**2109-1-14**].
   - aggressive IVF resuscitation with LR if needed for hypotension but
   will try to minimize for overall respiratory status
   - continue vanc/meropenem though likely will not affect course of
   pancreatitis
   - f/u ERCP recs and [**Doctor First Name 91**] reccs
   #Anemia: Basically stable despite  concern for hemorrhagic pancreatitis
   previously
   -continue [**Hospital1 **] Hct checks
   # Comm:  Social work has identified a few family members.  We are also
   in communication with his surgeon, Dr. [**Last Name (STitle) 4567**], who performed lap chole
   at OSH ([**Telephone/Fax (1) 4624**] (c) )
    #PPx: SC heparin, famotidine
   #FEN: TPN for moment (as have been sucking out tube feeds with OG),
   will attempt to restart tube feeds slowly today and stop again if being
   sucked out through OG
    #Code: Presumed full
   #Dispo: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2109-1-16**] 03:30 PM 75 mL/hour
   Nutren Pulmonary (Full) - [**2109-1-16**] 04:04 PM 40 mL/hour
   Glycemic Control: Insulin SS
   Lines:
   Arterial Line - [**2109-1-9**] 02:00 PM
   Multi Lumen - [**2109-1-9**] 10:43 PM
   Prophylaxis:
   DVT: Boots, Hep SC
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-01-17 18:03:00 Physician Resident Progress Note
Chief Complaint: pancreatitis s/p ERCP with aspiration, resp failure
   24 Hour Events:
   - per rads both OGT and feeding tube in stomach
   - Feeding tube advanced by IR and restarted
   - Great UOP to furosemide drip (>2.5 L negative in 24 hrs)
   - Got progressively more tachypneic O/N with coarse crackles; repeat
   CXR just showed pulmonary edema
   - SBT deferred d/t RISB of 108
   Patient unable to provide history: Unresponsive
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-1-14**] 12:00 PM
   Ciprofloxacin - [**2109-1-15**] 08:00 AM
   Metronidazole - [**2109-1-15**] 10:09 AM
   Vancomycin - [**2109-1-16**] 08:50 PM
   Meropenem - [**2109-1-17**] 04:35 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-1-16**] 09:23 PM
   Heparin Sodium (Prophylaxis) - [**2109-1-16**] 10:47 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none- pt not responsive
   Flowsheet Data as of  [**2109-1-17**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 99 (90 - 114) bpm
   BP: 115/58(77) {103/51(67) - 167/76(103)} mmHg
   RR: 26 (17 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  3,012 mL
                                                                    986 mL
   PO:
   TF:
                                                                    122 mL
                                                                    108 mL
   IVF:
                                                                  1,184 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                  5,975 mL
                                                                  2,290 mL
   Urine:
                                                                  4,565 mL
                                                                  1,320 mL
   NG:
                                                                    200 mL
                                                                    500 mL
   Stool:
   Drains:
                                                                  1,210 mL
                                                                    470 mL
   Balance:
                                                                 -2,963 mL
                                                                 -1,302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 464 (407 - 587) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.51/35/96.[**Numeric Identifier 7**]/28/4
   Ve: 13.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No acute distress, anasarcic
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: No spontaneous
   movement, Tone: Normal. Per nursing has opened eyes to command but not
   doing so this am
   Labs / Radiology
   271 K/uL
   9.9 g/dL
   146 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   18 mg/dL
   102 mEq/L
   136 mEq/L
   28.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2109-1-15**]  05:00 PM
                             [**2109-1-15**]  06:35 PM
                             [**2109-1-16**]  03:20 AM
                             [**2109-1-16**]  03:39 AM
                             [**2109-1-16**]  05:16 AM
                             [**2109-1-16**]  10:14 AM
                             [**2109-1-16**]  04:21 PM
                             [**2109-1-16**]  04:35 PM
                             [**2109-1-17**]  04:18 AM
                             [**2109-1-17**]  05:00 AM
   WBC
   9.5
   11.9
   Hct
   28.0
   27.2
   28.6
   Plt
   213
   271
   Cr
   0.5
   0.5
   0.5
   TCO2
   32
   32
   31
   30
   29
   30
   29
   Glucose
   143
   126
   146
   Other labs: PT / PTT / INR:15.3/28.4/1.4, ALT / AST:19/28, Alk Phos / T
   Bili:194/0.9, Amylase / Lipase:43/27, Differential-Neuts:84.3 %,
   Lymph:9.6 %, Mono:2.8 %, Eos:3.1 %, Lactic Acid:1.5 mmol/L, Albumin:1.6
   g/dL, LDH:181 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PANCREATITIS, ACUTE
 PNEUMONIA, ASPIRATION
 CHOLECYSTITIS, CALCULOUS
   53 year-old male with a history of depression transferred to the [**Hospital Unit Name 4**]
   s/p aspiration prior to being intubated for an ERCP for bile duct
   leak.
   # Hypoxic resp failure/Aspiration Pneumonia:  The patient was intubated
   after becoming significantly hypoxic after his ERCP.    He vomited,
   aspirated and had bilious fluid in the lung at the time of anesthesia
   bronchoscopy.  Has been successfully advanced to pressure support and
   ABG
s stable.  We will continue on pressure support and continue to
   monitor ABG
s to follow.  Sputum E. coli seemed unlikely to be a VAP
   organism initially but given defervescing on meropenem it is possible
   this is a VAP.
   - cont vanco/meropenem for now to cover GI and aspiration. ID aware and
   ok with double covering for anaerobes although surgery not sure about
   this.
   - Will try lasix gtt today for goal of one liter negative as pressures
   tolerate if continuing to not put out adequately to this would consider
   bolusing once again as pressures improved
   # Shock:  Likely secondary to combination of hypovolemia from
   third-spacing in setting of pancreatitis and now imporoved.  His
   relative hypovolemia has previously been manifested by tachycardia and
   then by hypotension.
   - IVF resuscitation with LR PRN, currently good BP
   - management of pancreatitis, ?sepsis as described below
   - CVP goal of 12, CVO2 goal of >70%
   - Will transfuse for Hct < 26
   - continue vanc/meropenem (day 1 = [**1-8**] for vanc and [**1-15**] for
   meropenem)
   - consider coverage of VRE or fungus if patient decompensates (fever
   curve currently trending down and perhaps slightly better)
    # Pancreatitis:  Patient had gall stone pancreatitis ([**12-30**]) with neg
   ERCP ([**12-31**] at [**Hospital1 5**]) s/p lap chole ([**1-5**]) c/b bile leak at OSH, and s/p
   ERCP for stent for leak c/b aspiration.  JP drain in place and draining
   bilious fluid.  Partially necrotic pancreatitis visualized on abdominal
   CT on [**2109-1-9**] and unchanged on scan on [**2109-1-14**].
   - aggressive IVF resuscitation with LR if needed for hypotension but
   will try to minimize for overall respiratory status
   - continue vanc/meropenem though likely will not affect course of
   pancreatitis
   - f/u ERCP recs and [**Doctor First Name 91**] reccs
   #Anemia: Basically stable despite  concern for hemorrhagic pancreatitis
   previously
   -continue [**Hospital1 **] Hct checks
   # Comm:  Social work has identified a few family members- HCP in
   brother [**Name (NI) **] in [**Name (NI) 507**].  We are also in communication with his surgeon,
   Dr. [**Last Name (STitle) 4567**], who performed lap chole at OSH ([**Telephone/Fax (1) 4624**] (c) )
    #PPx: SC heparin, famotidine
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-1-16**] 04:04 PM 40 mL/hour
   Glycemic Control: Insulin SS
   Lines:
   Arterial Line - [**2109-1-9**] 02:00 PM
   Multi Lumen - [**2109-1-9**] 10:43 PM
   Prophylaxis:
   DVT: Boots, Hep SC
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-01-18 07:42:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure, pneumonia
   24 Hour Events:
   -Lasix gtt in am got 3L off. Then stopped in afternoon to see how pt
   would diurese on his own which he continued to do at a slower rate
   -In afternoon, pt awakening and moving. HR and BP up. This resolved
   with bolus of fentanyl and placing pt back on propofol for sedation.
   Also at this time, trachea noted to not be midline. CXR showed no acute
   PTX, consolidations and in fact some slight resolution of pulm edema
   -stopped TPN. Continuing tube feeds
   -pulled back ETT 1cm
   -surgery recs no further imaging at this time. Pseudocyst may form but
   likely will be sterile so do not touch it to drain it as this would
   cause infection.
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-1-15**] 08:00 AM
   Metronidazole - [**2109-1-15**] 10:09 AM
   Vancomycin - [**2109-1-17**] 07:56 PM
   Meropenem - [**2109-1-18**] 03:10 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2109-1-17**] 01:20 PM
   Famotidine (Pepcid) - [**2109-1-17**] 07:14 PM
   Heparin Sodium (Prophylaxis) - [**2109-1-18**] 05:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-18**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 98 (80 - 124) bpm
   BP: 136/78(99) {107/60(75) - 165/88(109)} mmHg
   RR: 21 (20 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 6 (5 - 10)mmHg
   Total In:
                                                                  4,994 mL
                                                                  1,108 mL
   PO:
   TF:
                                                                    888 mL
                                                                    322 mL
   IVF:
                                                                  2,743 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                  7,090 mL
                                                                  1,620 mL
   Urine:
                                                                  4,250 mL
                                                                    480 mL
   NG:
                                                                    800 mL
                                                                    900 mL
   Stool:
   Drains:
                                                                  2,040 mL
                                                                    240 mL
   Balance:
                                                                 -2,096 mL
                                                                   -512 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 406 (325 - 431) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 14 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: 7.51/38/123/29/7
   Ve: 10.3 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdomen: Soft, BS+, No organomegaly or masses
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   395 K/uL
   10.6 g/dL
   129 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   19 mg/dL
   102 mEq/L
   136 mEq/L
   31.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2109-1-16**]  05:16 AM
                             [**2109-1-16**]  10:14 AM
                             [**2109-1-16**]  04:21 PM
                             [**2109-1-16**]  04:35 PM
                             [**2109-1-17**]  04:18 AM
                             [**2109-1-17**]  05:00 AM
                             [**2109-1-17**]  09:46 AM
                             [**2109-1-17**]  05:13 PM
                             [**2109-1-18**]  03:28 AM
                             [**2109-1-18**]  05:30 AM
   WBC
   11.9
   11.4
   Hct
   27.2
   28.6
   31.9
   Plt
   271
   395
   Cr
   0.5
   0.5
   0.5
   0.4
   TCO2
   30
   29
   30
   29
   29
   31
   Glucose
   126
   146
   167
   129
   Other labs: PT / PTT / INR:14.3/26.6/1.2, ALT / AST:15/20, Alk Phos / T
   Bili:289(194)/0.7(0.9), Amylase / Lipase:26/19, Differential-Neuts:86.7
   %, Lymph:8.0 %, Mono:2.9 %, Eos:2.1 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.6 g/dL, LDH:220 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   53 year-old male with a history of depression transferred to the [**Hospital Unit Name 4**]
   s/p aspiration prior to being intubated for an ERCP for bile duct
   leak.
   # Hypoxic resp failure/Aspiration Pneumonia:  The patient was intubated
   after becoming significantly hypoxic after his ERCP.    He vomited,
   aspirated and had bilious fluid in the lung at the time of anesthesia
   bronchoscopy.  Has been successfully advanced to pressure support and
   ABG
s stable.  We will continue on pressure support and continue to
   monitor ABG
s to follow.  Sputum E. coli in context of fever and
   perhaps increased infiltrate led to VAP diagnosis.   Significant
   pulmonary edema also undoubtedly contributing to respiratory distress
   -Meropenem (day [**3-8**]) for VAP and also to cover possible GI process
   -If patient has improved MS during afternoon trial off sedation could
   consider SBT in AM and possible extubation tomorrow.
   - Cont lasix gtt today  to diurese as tolerated with goal MAP>60.
   Checking Pm lytes
   # Shock:  Likely due to possible combination of SIRS and sepsis from
   pancreatitis and cholangitis respectively.  Now resolved.  -
    # Pancreatitis:  Patient had gall stone pancreatitis ([**12-30**]) with neg
   ERCP ([**12-31**] at [**Hospital1 5**]) s/p lap chole ([**1-5**]) c/b bile leak at OSH, and s/p
   ERCP for stent for leak c/b aspiration.  JP drain in place and draining
   bilious fluid.  Partially necrotic pancreatitis visualized on abdominal
   CT on [**2109-1-9**] and unchanged on scan on [**2109-1-14**].
   - has not needed IVF for several days but will give PRN for hypotension
   - Completed 10 day course of vanc to cover enterococcus in context of
   instrumentation and severe cholangitis
   - f/u ERCP recs and [**Doctor First Name 91**] reccs
   -continuing TF today. No further need for TPN at this time.
   #Alkalosis: Primary metabolic and presumably due to large volume of
   gastric contents being removed by suction.  This will remain necessary
   as long as ileus prevents natural drainage of stomach though bowel
   sounds are encouraging.
   -Discuss w/ surgery re: concern for duration of ileus and large gastric
   suction volume
   # Rising AlkP: Monitor and consider repeat ultrasound if continues to
   rise due to known biliary distension s/p stent
   #MS changes: Patient finally had some signs of awakening and purposeful
   movements yesterday.  Will turn off sedation this afternoon and
   reassess.
    #Anemia: Basically stable despite  concern for hemorrhagic
   pancreatitis previously. Will monitor daily
    # Comm:  Social work has identified a few family members- HCP in
   brother [**Name (NI) **] in [**Name (NI) 507**].  We are also in communication with his surgeon,
   Dr. [**Last Name (STitle) 4567**], who performed lap chole at OSH ([**Telephone/Fax (1) 4624**] (c) )
    #PPx: SC heparin, famotidine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-1-9**] 02:00 PM
   Multi Lumen - [**2109-1-9**] 10:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-01-19 07:37:00 Physician Resident Progress Note
Chief Complaint: Cholangitis, hypoxic respiratory failure
   24 Hour Events:
   - stopped vancomycin because he had completed course
   - put on pressure support and sedation lightened; was able to follow
   simple commands in afternoon with RSBI of 50 but was uncomfortable so
   sedation increased overnight
   - got KUB because surgery concerned about location of duboff and OGTs.
   KUB read by radiologist overnight as: OG tube is coiled in the fundus
   of the stomach. Dobhoff tube appears to coil on itself at the pylorus
   and no longer appears post pyloric. The stomach is moderately dilated.
   There is no gross obstruction.
   - OGT drained 3L of fluid but looked bilious and not like TFs so
   thinking was that duboff was still post pyloric but patient may have
   bowel obstruction given high output.  Discussion with surgery initially
   suggested no new reccs but will continue to discuss
   - Off furosemide GTT
   -following commands on AM of [**2109-1-19**] as following commands
   Patient unable to provide history: intubated
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-1-18**] 08:02 AM
   Meropenem - [**2109-1-19**] 04:00 AM ([**4-7**])
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-1-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2109-1-19**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-19**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 89 (83 - 110) bpm
   BP: 148/83(105) {115/65(80) - 156/89(110)} mmHg
   RR: 20 (8 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 4 (-8 - 6)mmHg
   Total In:
                                                                  3,804 mL
                                                                    886 mL
   PO:
   TF:
                                                                  1,790 mL
                                                                    333 mL
   IVF:
                                                                  1,534 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  5,530 mL
                                                                  2,000 mL
   Urine:
                                                                  1,890 mL
                                                                    330 mL
   NG:
                                                                  3,200 mL
                                                                  1,600 mL
   Stool:
   Drains:
                                                                    440 mL
                                                                     70 mL
   Balance:
                                                                 -1,726 mL
                                                                 -1,114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (392 - 776) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 6 cmH2O
   SpO2: 93%
   ABG: 7.51/39/134/28/7 (on [**4-2**])
   Ve: 14.5 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   429 K/uL
   9.9 g/dL
   101 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   16 mg/dL
   104 mEq/L
   138 mEq/L
   29.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2109-1-16**]  04:35 PM
                             [**2109-1-17**]  04:18 AM
                             [**2109-1-17**]  05:00 AM
                             [**2109-1-17**]  09:46 AM
                             [**2109-1-17**]  05:13 PM
                             [**2109-1-18**]  03:28 AM
                             [**2109-1-18**]  05:30 AM
                             [**2109-1-18**]  08:18 PM
                             [**2109-1-18**]  11:42 PM
                             [**2109-1-19**]  04:10 AM
   WBC
   11.9
   11.4
   9.0
   Hct
   28.6
   31.9
   29.1
   Plt
   271
   395
   429
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   TCO2
   30
   29
   29
   31
   32
   Glucose
   146
   167
   129
   110
   101
   Other labs: PT / PTT / INR:14.1/26.9/1.2, Amylase / Lipase:25/17,
   Differential-Neuts:73.6 %, Lymph:16.7 %, Mono:4.6 %, Eos:4.8 %,
   Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   53 year-old male with a history of depression transferred to the [**Hospital Unit Name 4**]
   s/p aspiration prior to being intubated for an ERCP for bile duct
   leak.
    # Hypoxic resp failure/Aspiration Pneumonia:  The patient was
   intubated after becoming significantly hypoxic after his ERCP.    He
   vomited, aspirated and had bilious fluid in the lung at the time of
   anesthesia bronchoscopy.  Has been successfully advanced to pressure
   support and ABG
s stable.  We will continue on pressure support and
   continue to monitor ABG
s to follow.  Sputum E. coli in context of
   fever and perhaps increased infiltrate led to VAP diagnosis.
   Significant pulmonary edema also undoubtedly contributing to
   respiratory distress
   -Meropenem (day [**3-8**]) for VAP and also to cover possible GI process
   -Overall still 9L positive for length of stay and definite pulmonary
   edema on CXR, will use bolus furosemide to aim for another 1-2 L
   negative today, will check PM lytes
   -SBT ABG remained stable, will attempt extubation this AM
    # Shock:  Likely due to possible combination of SIRS and sepsis from
   pancreatitis and cholangitis respectively.  Now resolved.
    # Pancreatitis:  Patient had gall stone pancreatitis ([**12-30**]) with neg
   ERCP ([**12-31**] at [**Hospital1 5**]) s/p lap chole ([**1-5**]) c/b bile leak at OSH, and s/p
   ERCP for stent for leak c/b aspiration.  JP drain in place and draining
   bilious fluid.  Partially necrotic pancreatitis visualized on abdominal
   CT on [**2109-1-9**] and unchanged on scan on [**2109-1-14**].
   - has not needed IVF for several days but will give PRN for hypotension
   - Completed 10 day course of vanc to cover enterococcus in context of
   instrumentation and severe cholangitis
   - f/u ERCP recs and [**Doctor First Name 91**] reccs
   -holding TF today as tube in stomach, will attempt to readvance and
   reassess this PM
    #Alkalosis: Primary metabolic and presumably due to large volume of
   gastric contents being removed by suction.  This will remain necessary
   as long as ileus prevents natural drainage of stomach though bowel
   sounds are encouraging.
   -Discuss w/ surgery re: concern for duration of ileus and large gastric
   suction volume
   # LFT
s : Stable with eleavated [**Last Name (LF) 4776**], [**First Name3 (LF) 124**] monitor
   #MS changes: Patient awake and following commands, it appears that a
   large part of mental status changes just due to persistent sedation,
   will reevaluate after extubation
    #Anemia: Basically stable despite  concern for hemorrhagic
   pancreatitis previously. Will monitor daily
   # Comm:  Social work has identified a few family members- HCP in
   brother [**Name (NI) **] in [**Name (NI) 507**].  We are also in communication with his surgeon,
   Dr. [**Last Name (STitle) 4567**], who performed lap chole at OSH ([**Telephone/Fax (1) 4624**] (c) )
    #PPx: SC heparin, famotidine
   #Code: Full
   #Dispo: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-1-19**] 12:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-1-9**] 02:00 PM
   Multi Lumen - [**2109-1-9**] 10:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Re: feeding: Radiographs last night and today suggest Mr. [**Known lastname 4630**]
[**Last Name (un) 4777**]-enteric tube is once again in his stomach and OG suction is once
   again yielding TF like material.  Per surgery reccs we will hold TF
   once again and give the patient Metoclopramide in hopes of advancing
   tube.  We will re-image this afternoon to evaluate for results.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2109-1-19**] 13:32 ------

2109-01-20 07:59:00 Physician Resident Progress Note
Chief Complaint: Cholangitis, hypoxic respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2109-1-19**] 12:57 PM
 ARTERIAL LINE - STOP [**2109-1-19**] 03:58 PM
   -Extubated in late morning
   -Altered MS in afternoon with confusion about location and agitation
   but O2 sat good and no sedation
   -Received haloperidol IV *1 with some improvement
   -Persistently altered and placed on soft restraints overnight to avoid
   tube removal
   -Stayed off tube feeds and on low intermittent suction with large
   amount of NG output again
   -Started having lots of BM's
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-1-18**] 08:02 AM
   Meropenem - [**2109-1-20**] 03:23 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-1-19**] 12:38 PM
   Haloperidol (Haldol) - [**2109-1-19**] 03:27 PM
   Lorazepam (Ativan) - [**2109-1-19**] 04:17 PM
   Famotidine (Pepcid) - [**2109-1-19**] 09:12 PM
   Heparin Sodium (Prophylaxis) - [**2109-1-20**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2109-1-20**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 95 (81 - 118) bpm
   BP: 135/73(87) {127/70(83) - 145/109(114)} mmHg
   RR: 32 (17 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: -4 (-4 - 12)mmHg
   Total In:
                                                                  1,487 mL
                                                                    178 mL
   PO:
   TF:
                                                                    390 mL
   IVF:
                                                                    897 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  6,430 mL
                                                                  1,110 mL
   Urine:
                                                                  2,780 mL
                                                                    330 mL
   NG:
                                                                  3,400 mL
                                                                    700 mL
   Stool:
   Drains:
                                                                    250 mL
                                                                     80 mL
   Balance:
                                                                 -4,943 mL
                                                                   -932 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 469 (469 - 469) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 4L
   ABG: 7.51/36/120/28/6
   Ve: 11.5 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   569 K/uL
   9.8 g/dL
   96 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   109 mEq/L
   145 mEq/L
   29.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2109-1-17**]  09:46 AM
                             [**2109-1-17**]  05:13 PM
                             [**2109-1-18**]  03:28 AM
                             [**2109-1-18**]  05:30 AM
                             [**2109-1-18**]  08:18 PM
                             [**2109-1-18**]  11:42 PM
                             [**2109-1-19**]  04:10 AM
                             [**2109-1-19**]  08:07 AM
                             [**2109-1-19**]  05:43 PM
                             [**2109-1-20**]  04:45 AM
   WBC
   11.4
   9.0
   12.6
   Hct
   31.9
   29.1
   30.2
   29.4
   Plt
   395
   429
   569
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   29
   31
   32
   30
   Glucose
   167
   129
   110
   101
   96
   Other labs: PT / PTT / INR:14.2/24.5/1.2
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PANCREATITIS, ACUTE
 PNEUMONIA, ASPIRATION
 CHOLECYSTITIS, CALCULOUS
   53 year-old male with a history of depression transferred to the [**Hospital Unit Name 4**]
   s/p aspiration prior to being intubated for an ERCP for bile duct
   leak.
    # Hypoxic resp failure/Aspiration Pneumonia:  The patient was
   intubated after becoming significantly hypoxic after his ERCP.    He
   vomited, aspirated and had bilious fluid in the lung at the time of
   anesthesia bronchoscopy.  Has been successfully advanced to pressure
   support and ABG
s stable.  We will continue on pressure support and
   continue to monitor ABG
s to follow.  Sputum E. coli in context of
   fever and perhaps increased infiltrate led to VAP diagnosis.
   Significant pulmonary edema also undoubtedly contributing to
   respiratory distress
   -Meropenem (day [**3-8**]) for VAP and also to cover possible GI process
   -Overall still 9L positive for length of stay and definite pulmonary
   edema on CXR, will use bolus furosemide to aim for another 1-2 L
   negative today, will check PM lytes
   -SBT ABG remained stable, will attempt extubation this AM
    # Shock:  Likely due to possible combination of SIRS and sepsis from
   pancreatitis and cholangitis respectively.  Now resolved.
    # Pancreatitis:  Patient had gall stone pancreatitis ([**12-30**]) with neg
   ERCP ([**12-31**] at [**Hospital1 5**]) s/p lap chole ([**1-5**]) c/b bile leak at OSH, and s/p
   ERCP for stent for leak c/b aspiration.  JP drain in place and draining
   bilious fluid.  Partially necrotic pancreatitis visualized on abdominal
   CT on [**2109-1-9**] and unchanged on scan on [**2109-1-14**].
   - has not needed IVF for several days but will give PRN for hypotension
   - Completed 10 day course of vanc to cover enterococcus in context of
   instrumentation and severe cholangitis
   - f/u ERCP recs and [**Doctor First Name 91**] reccs
   -holding TF today as tube in stomach, will attempt to readvance and
   reassess this PM
    #Alkalosis: Primary metabolic and presumably due to large volume of
   gastric contents being removed by suction.  This will remain necessary
   as long as ileus prevents natural drainage of stomach though bowel
   sounds are encouraging.
   -Discuss w/ surgery re: concern for duration of ileus and large gastric
   suction volume
   # LFT
s : Stable with eleavated [**Last Name (LF) 4776**], [**First Name3 (LF) 124**] monitor
   #MS changes: Patient awake and following commands, it appears that a
   large part of mental status changes just due to persistent sedation,
   will reevaluate after extubation
    #Anemia: Basically stable despite  concern for hemorrhagic
   pancreatitis previously. Will monitor daily
   # Comm:  Social work has identified a few family members- HCP in
   brother [**Name (NI) **] in [**Name (NI) 507**].  We are also in communication with his surgeon,
   Dr. [**Last Name (STitle) 4567**], who performed lap chole at OSH ([**Telephone/Fax (1) 4624**] (c) )
    #PPx: SC heparin, famotidine
   #Code: Full
   #Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-1-9**] 10:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-01-21 07:50:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
   -per surgery, pulled doppoff
   -pt pulled own NGT. replaced in evening as pt still putting out 700cc
   during day while to suction. Placement good on CXR
   -no more BMs today
   -TPN reordered
   -Called out this am
   History obtained from Patient
   Allergies:
   History obtained from PatientNortriptyline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-1-18**] 08:02 AM
   Meropenem - [**2109-1-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-1-21**] 06:20 AM
   Famotidine (Pepcid) - [**2109-1-21**] 07:37 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: states has dry mouth, mild abd pain, is hungry. No
   other complaints
   Flowsheet Data as of  [**2109-1-21**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 82 (74 - 108) bpm
   BP: 129/66(79) {112/66(78) - 149/79(93)} mmHg
   RR: 30 (21 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 5 (3 - 9)mmHg
   Total In:
                                                                  1,179 mL
                                                                    715 mL
   PO:
   TF:
   IVF:
                                                                    840 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  2,935 mL
                                                                  1,050 mL
   Urine:
                                                                  1,345 mL
                                                                    610 mL
   NG:
                                                                  1,400 mL
                                                                    400 mL
   Stool:
   Drains:
                                                                    190 mL
                                                                     40 mL
   Balance:
                                                                 -1,756 mL
                                                                   -335 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, temporal wasting
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Distended, Tender: to deep palpation throughout,
   very occassional bowel sounds
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   637 K/uL
   10.1 g/dL
   123 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   16 mg/dL
   110 mEq/L
   145 mEq/L
   30.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2109-1-17**]  05:13 PM
                             [**2109-1-18**]  03:28 AM
                             [**2109-1-18**]  05:30 AM
                             [**2109-1-18**]  08:18 PM
                             [**2109-1-18**]  11:42 PM
                             [**2109-1-19**]  04:10 AM
                             [**2109-1-19**]  08:07 AM
                             [**2109-1-19**]  05:43 PM
                             [**2109-1-20**]  04:45 AM
                             [**2109-1-21**]  04:12 AM
   WBC
   11.4
   9.0
   12.6
   12.4
   Hct
   31.9
   29.1
   30.2
   29.4
   30.0
   Plt
   395
   429
   569
   637
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   31
   32
   30
   Glucose
   167
   129
   110
   101
   96
   123
   Other labs: PT / PTT / INR:14.1/23.9/1.2, ALT / AST:15/20, Alk Phos / T
   Bili:289/0.7, Amylase / Lipase:25/17, Differential-Neuts:75.5 %,
   Lymph:15.9 %, Mono:5.0 %, Eos:3.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.6 g/dL, LDH:220 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PANCREATITIS, ACUTE
 PNEUMONIA, ASPIRATION
 CHOLECYSTITIS, CALCULOUS
   53 year-old male with a history of depression transferred to the [**Hospital Unit Name 4**]
   s/p aspiration prior to being intubated for an ERCP for bile duct
   leak.
     # Hypoxic resp failure/Aspiration Pneumonia:  Patient s/p course of
   treatment for aspiration though currently being treated for VAP.  This
   and significant pulmonary edema continue to be main contributors to
   less than optimal respiratory status though patient is ventilating and
   oxygenating well off ventilator.
   -Meropenem (day [**4-7**]) for VAP and also to cover possible GI process
   -Patient making good UOP and was almost 6L negative yesterday,  will
   evaluate  I&O balance this afternoon and if persistently positive/equal
   would give small dose (furosemide 10 mg IV) diuretic aiming for goal of
   -500 to 1000 ml for day.
    # Shock:  Likely due to possible combination of SIRS and sepsis from
   pancreatitis and cholangitis respectively.  Now resolved.
    # Pancreatitis:  Patient had gall stone pancreatitis ([**12-30**]) as initial
   insult status post a complicated course of procedures and insults.  He
   now has known necrotic pancreatitis.  For the moment assumption is the
   necrotic material is stable and we are attempting to defer any invasive
   intervention at this time to avoid infecting that.  [**Month (only) 8**] need surgery
   after this has organized.
   -Rescan per surgery and may need surgical decompression of pseudocyst
   if this forms in the coming months.
   -NPO
   #Ileus: Patient appears to have partial gastric outlet obstruction with
   large NG outputs.  This is presumed due to functional obstruction
   secondary to pancreatic inflammation.
   -NPO
   -NG to low intermittent suction
    #MS changes: Patient  quite confused after extubation.  No focal
   findings and this seems most consistent w/ anemia.  Probably ICU
   psychosis and possible contribution of sedating medications deposited
   in fat or slow to break down in setting of  recovery from severe
   illness.
   -Continue to follow
    #Anemia: Basically stable despite  concern for hemorrhagic
   pancreatitis previously. Will monitor daily
   # Comm:  Social work has identified a few family members- HCP in
   brother [**Name (NI) **] in [**Name (NI) 507**].  We are also in communication with his surgeon,
   Dr. [**Last Name (STitle) 4567**], who performed lap chole at OSH ([**Telephone/Fax (1) 4624**] (c) )
    #PPx: SC heparin, famotidine
   #Code: Full
   #Dispo: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2109-1-20**] 05:13 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2109-1-9**] 10:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2109-01-22 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2109-1-21**] 09:32 AM
 URINE CULTURE - At [**2109-1-21**] 09:32 AM
 MULTI LUMEN - START [**2109-1-21**] 04:29 PM
 MULTI LUMEN - STOP [**2109-1-21**] 04:41 PM
   Allergies:
   Nortriptyline
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2109-1-22**] 04:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-1-22**] 06:01 AM
   Famotidine (Pepcid) - [**2109-1-22**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-1-22**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 81 (67 - 109) bpm
   BP: 109/64(82) {105/63(75) - 145/80(95)} mmHg
   RR: 27 (20 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,655 mL
                                                                    306 mL
   PO:
             TF:
   IVF:
                                                                    794 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                  1,215 mL
   Urine:
                                                                  1,540 mL
                                                                    650 mL
   NG:
                                                                  1,050 mL
                                                                    550 mL
   Stool:
   Drains:
                                                                     80 mL
                                                                     15 mL
   Balance:
                                                                 -1,015 mL
                                                                   -909 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   525 K/uL
   10.6 g/dL
   98 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   17 mg/dL
   109 mEq/L
   142 mEq/L
   31.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2109-1-18**]  08:18 PM
                             [**2109-1-18**]  11:42 PM
                             [**2109-1-19**]  04:10 AM
                             [**2109-1-19**]  08:07 AM
                             [**2109-1-19**]  05:43 PM
                             [**2109-1-20**]  04:45 AM
                             [**2109-1-21**]  04:12 AM
                             [**2109-1-21**]  02:00 PM
                             [**2109-1-21**]  07:18 PM
                             [**2109-1-22**]  05:13 AM
   WBC
   9.0
   12.6
   12.4
   13.4
   12.3
   Hct
   29.1
   30.2
   29.4
   30.0
   30.6
   30.3
   31.0
   Plt
   429
   569
   637
   568
   525
   Cr
   0.4
   0.4
   0.4
   0.4
   0.5
   0.5
   0.6
   TCO2
   32
   30
   Glucose
   110
   101
   96
   123
   116
   95
   98
   Other labs: PT / PTT / INR:14.1/23.9/1.2, ALT / AST:17/21, Alk Phos / T
   Bili:182/0.6, Amylase / Lipase:42/26, Differential-Neuts:80.0 %,
   Lymph:12.1 %, Mono:4.4 %, Eos:3.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.6 g/dL, LDH:210 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PANCREATITIS, ACUTE
 PNEUMONIA, ASPIRATION
 CHOLECYSTITIS, CALCULOUS
   53 year-old male with a history of depression transferred to the [**Hospital Unit Name 4**]
   s/p aspiration prior to being intubated for an ERCP for bile duct
   leak.
    # Hypoxic resp failure/Aspiration Pneumonia:  Patient s/p course of
   treatment for aspiration though currently being treated for VAP.  This
   and significant pulmonary edema continue to be main contributors to
   less than optimal respiratory status though patient is ventilating and
   oxygenating well off ventilator.
   -Meropenem (day [**5-8**]) for VAP and also to cover possible GI process
   -Patient making good UOP and was 1.7L negative yesterday autodiuresing.
   Will continue to aim for goal of -500 to 1000 ml daily
    # Shock:  Likely due to possible combination of SIRS and sepsis from
   pancreatitis and cholangitis respectively.  Now resolved.
   # Pancreatitis:  Patient had gall stone pancreatitis ([**12-30**]) as initial
   insult status post a complicated course of procedures and insults.  He
   now has known necrotic pancreatitis.  For the moment assumption is the
   necrotic material is stable and we are attempting to defer any invasive
   intervention at this time to avoid infecting that.  [**Month (only) 8**] need surgery
   after this has organized.
   -Rescan per surgery and may need surgical decompression of pseudocyst
   if this forms in the coming months.
   -NPO with NGT to suction for now
    #Ileus: Patient appears to have partial gastric outlet obstruction
   with large NG outputs.  This is presumed due to functional obstruction
   secondary to pancreatic inflammation.
   -NPO
   -NG to low intermittent suction
    #MS changes: Patient  quite confused after extubation.  No focal
   findings and this seems most consistent w/ anemia.  Probably ICU
   psychosis and possible contribution of sedating medications deposited
   in fat or slow to break down in setting of  recovery from severe
   illness.  Today, however, seems less communicative and given lack of
   focal findings, sepsis or new infection is concerning.
   -send blood cultures including from RIJ. Resite CVL and d/c RIJ sending
   tip for culture
   -UA, pan culture
   -LFTs (given possibility of recurrent cholangitis)
   - PM HCT and lytes
   -restraints PRN to protect NGT.
    #Anemia: Basically stable despite  concern for hemorrhagic
   pancreatitis previously. Will monitor [**Hospital1 **] today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-1-21**] 11:11 AM
   20 Gauge - [**2109-1-21**] 11:11 AM
   Multi Lumen - [**2109-1-21**] 04:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor